US06235707B1
Step A: Methoxycarbonyl-3-phenyl-D-alanine dicyclohexylamine salt
5 g (30 mmol) of D-phenylalanine is dissolved in 15 ml of 2M NaOH solution, cooled to 0° C. and, simultaneously, 16.5 ml of 2M NaOH solution and 2.55 ml (33 mmol) of methyl chloroformate are added. The mixture is stirred at this temperature for 30 min, then at room temperature for 2 hours. Diluted with 40 ml of water, the mixture is washed with 10 ml of diethyl ether, acidified to pH3 with 3M HCl and extracted with 4×20 ml of ethyl acetate. The pooled organic extracts are washed with water (20 ml), dried over anhydrous sodium sulphate and evaporated at a pressure of 2.0-2.5 kPa. The residue is dissolved in 60 ml of diisopropyl ether and 6 ml (30 mmol) of dicyclohexylamine is added. The separated crystals are filtered off, washed with diisopropyl ether and dried in air.

reactant | D-phenylalanine | 30 mmol, 5 g | N[C@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
reactant | methyl chloroformate | 33 mmol, 2.55 ml | ClC(=O)OC | C2H3ClO2
reactant | dicyclohexylamine | 30 mmol, 6 ml | C1(CCCCC1)NC1CCCCC1 | C12H23N
solvent | NaOH | 2M, 15 ml | [OH-].[Na+]
solvent | water | 40 ml | O | H2O
solvent | NaOH | 2M, 16.5 ml | [OH-].[Na+]
product | Methoxycarbonyl-3-phenyl-D-alanine dicyclohexylamine salt | C1(CCCCC1)NC1CCCCC1.COC(=O)N[C@H](CC1=CC=CC=C1)C(=O)O | InChI=1S/C12H23N.C11H13NO4/c1-3-7-11(8-4-1)13-12-9-5-2-6-10-12;1-16-11(15)12-9(10(13)14)7-8-5-3-2-4-6-8/h11-13H,1-10H2;2-6,9H,7H2,1H3,(H,12,15)(H,13,14)/t;9-/m.1/s1
